* File: and3.pex.netlist.pex
* Created: Sat Apr 30 01:01:56 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND3%GND! 1 4 16 22 28 37 43 44
c68 44 0 1.98328e-19
c69 43 0 1.95454e-19
c70 16 0 1.91153e-19
r71 31 44 10
r72 28 31 0.752952
r73 28 44 10
r74 26 37 0.0220114
r75 26 28 1.1739
r76 22 24 0.341973
r77 19 22 0.109781
r78 17 19 0.30117
r79 16 37 0.0238874
r80 16 24 0.548906
r81 13 43 10
r82 10 13 0.582909
r83 10 43 10
r84 7 10 0.582909
r85 7 43 10
r86 4 7 0.592624
r87 4 43 10
r88 2 17 0.0515295
r89 2 4 0.582909
r90 1 37 15
r91 1 24 30
r92 1 19 10
.ends

.subckt PM_AND3%NET1 4 6 9 10 12 14 17 32 33 36 52 67 68 69 71 73 75 78 80 81 82
+ 84 86 87
c134 80 0 2.81135e-19
c135 78 0 1.5009e-19
r136 81 89 25
r137 80 82 0.112345
r138 80 81 1.7
r139 77 78 1.7
r140 75 82 0.155553
r141 73 77 0.0952911
r142 72 75 0.0477651
r143 72 73 0.695145
r144 70 78 0.108876
r145 70 71 0.0611101
r146 68 78 0.095715
r147 68 69 0.0611101
r148 64 86 30
r149 61 64 0.388606
r150 61 86 10
r151 58 61 0.582909
r152 58 86 10
r153 55 58 0.582909
r154 55 86 10
r155 52 55 0.582909
r156 52 71 0.344888
r157 52 86 10
r158 48 67 0.0363272
r159 48 69 0.0874363
r160 46 87 10
r161 43 46 0.582909
r162 43 87 10
r163 40 43 0.582909
r164 40 87 10
r165 36 40 0.592624
r166 36 87 10
r167 34 67 0.0363272
r168 34 46 0.276882
r169 32 67 0.00944082
r170 32 33 0.801813
r171 29 84 30
r172 26 29 0.674397
r173 26 84 10
r174 23 26 1.01159
r175 23 84 10
r176 20 23 1.01159
r177 20 84 10
r178 17 20 1.01159
r179 17 84 10
r180 15 33 0.0479332
r181 15 17 1.20717
r182 9 89 4.17508
r183 9 10 0.833027
r184 6 14 153.887
r185 5 10 5.18609
r186 5 6 16.0034
r187 4 10 5.18609
r188 3 12 69.9487
r189 3 4 16.0034
.ends

.subckt PM_AND3%OUT 3 11 26 29 32 34 36 37
c36 32 0 8.28069e-20
r37 32 34 1.7
r38 28 32 0.102894
r39 28 29 0.0611101
r40 26 32 0.101697
r41 26 27 0.0611101
r42 23 36 15
r43 20 23 0.502386
r44 20 36 10
r45 17 20 0.752952
r46 17 36 10
r47 14 17 0.752952
r48 14 36 10
r49 11 14 0.752952
r50 11 29 0.444756
r51 11 36 10
r52 7 27 0.556258
r53 7 37 10
r54 3 7 0.752952
r55 3 37 10
.ends

.subckt PM_AND3%VDD! 1 4 19 26 41 48 66 68 73 74 76
c97 48 0 1.5009e-19
c98 19 0 3.90378e-19
r99 61 76 15
r100 58 61 0.502386
r101 58 76 10
r102 55 58 0.752952
r103 55 76 10
r104 52 55 0.752952
r105 52 76 10
r106 48 52 0.752952
r107 48 76 10
r108 46 68 0.026159
r109 46 61 1.62117
r110 42 66 0.0206178
r111 42 44 0.0748427
r112 41 68 0.0206178
r113 41 44 0.607057
r114 39 74 30
r115 36 39 0.501133
r116 36 74 10
r117 33 36 0.7517
r118 33 74 10
r119 30 33 0.7517
r120 30 74 10
r121 26 30 0.7517
r122 26 74 10
r123 24 66 0.026159
r124 24 39 0.507397
r125 20 22 0.174633
r126 19 66 0.0206178
r127 19 22 0.182949
r128 17 73 30
r129 14 17 0.501133
r130 14 73 10
r131 11 14 0.7517
r132 11 73 10
r133 8 11 0.7517
r134 8 73 10
r135 4 8 0.7517
r136 4 73 10
r137 2 20 0.053567
r138 2 17 0.507397
r139 1 68 15
r140 1 44 15
r141 1 22 10
.ends

.subckt PM_AND3%B 4 6 9 10 12 14 16 19 20
c40 20 0 9.79855e-20
c41 19 0 2.89439e-19
c42 14 0 1.95189e-19
c43 12 0 1.91153e-19
r44 20 23 25
r45 19 20 1.7
r46 16 19 0.0298157
r47 9 23 4.17508
r48 9 10 0.833027
r49 6 14 141.169
r50 5 10 5.18609
r51 5 6 16.0034
r52 4 10 5.18609
r53 3 12 129.829
r54 3 4 27.5556
.ends

.subckt PM_AND3%A 6 10 12 14 17 20 22
c51 22 0 1.34535e-19
c52 17 0 9.79855e-20
c53 14 0 3.85609e-19
c54 12 0 1.95189e-19
c55 6 0 1.34535e-19
r56 20 23 5.84936
r57 20 22 5.84936
r58 17 20 25
r59 14 17 1.7
r60 6 12 141.169
r61 6 23 16.0034
r62 3 10 129.829
r63 3 22 27.5556
.ends

.subckt PM_AND3%C 6 10 12 15 18 21 23
c58 23 0 1.45812e-19
c59 18 0 2.69069e-19
c60 6 0 1.45812e-19
r61 21 24 5.52511
r62 21 23 5.52511
r63 15 21 25
r64 14 18 0.0280619
r65 14 15 1.7
r66 6 12 141.169
r67 6 24 16.0034
r68 3 10 129.829
r69 3 23 27.5556
.ends

